US04268510
2-Amino-5-iodobenzyl alcohol (12 g.) and cuprous cuyanide (5.4 g.) in dry dimethylformamide (10 ml.) were heated on a steam-bath for 30 hours, then cooled to ambient temperature and poured into a solution of ferric chloride (10 g.) in water (100 ml.). This mixture was exhaustively extracted with ether (14×60 ml.), the extracts were combined and dried, and the solvent was evaporated. The residue was chromatographed on a column of "Merck 7734" silica, and elution with ether yielded the required 4-amino-3-hydroxymethylbenzonitrile as a buff-coloured solid.

reactant | 2-Amino-5-iodobenzyl alcohol | 12 g | NC1=C(CO)C=C(C=C1)I | C7H8INO
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 4-amino-3-hydroxymethylbenzonitrile | NC1=C(C=C(C#N)C=C1)CO | C8H8N2O
